US06518264B2
The operation is carried out as described in Example 87, starting with 0.05 g of 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form A isomer, 1.0 cm3 of dichloromethane, and 0.020 g of di-n-propylamine. The crude product is chromatographed on a silica gel column (particle size 0.06-0.200 mm, diameter 8 mm, height 8 cm), eluting with 80 cm3 of dichloromethane and then with a dichloromethane and methanol mixture (95/5 by volume), collecting 2.5 cm3 fractions immediately after using this eluent mixture. Fractions 3 to 8 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.025 g of 1-{(R*)-(4-(chlorophenyl)[4-(di-n-propylaminomethyl)phenyl]methyl}-3-[(3,5-difluorophenyl) (methylsulfonyl)methylene]azetidine, form A isomer, is obtained in the form of a white foam [1H NMR spectrum (400 MHz, CDCl3, δ in ppm): 0.85 (t, J=7 Hz, 6H) 1.45 (mt, 4H), 2.34 (t, J=7.50SHz, 4H), 2.80 (s, 3H), 3.48 (s, 2H), 3.84 (mt, 2H), 4.33 (mt, 2H), 4.50 (s, 1H), 6.83 (tt, J=9 and 2.5 Hz, 1H), 6.98 (mt, 2H), from 7.20 to 7.40 (mt, 8H)].

reactant | 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.05 g | ClCC1=CC=C(C=C1)[C@@H](N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO2S
reactant | di-n-propylamine | 0.020 g | C(CC)NCCC | C6H15N
reactant | dichloromethane | 1.0 cm3 | ClCCl | CH2Cl2
product | (R*)-(4-(chlorophenyl)[4-(di-n-propylaminomethyl)phenyl]methyl}-3-[(3,5-difluorophenyl) (methylsulfonyl)methylene]azetidine | 0.025 g | ClC1=C(C=CC=C1)[C@]1(CC=C(C=C1)CN1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)CN(CCC)CCC | C31H37ClF2N2O2S
